US08426411B2
To a solution of N,N-dibenzyl-3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine (3.0 g, 5.30 mmol) in trifluoroethanol (200 mL) was added 20% wet palladium hydroxide on carbon (0.6 g, 4.27 mmol). The mixture was stirred under 40 psi of hydrogen at about 50° C. for about 90 min. The catalyst was removed by filtration through a pad of Celite® and the filtrate was concd under reduced pressure to yield 3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine (2.0 g, 98% yield) as a brown amorphous solid. LC/MS (Table 1, Method a) Rt=1.86 min; MS m/z 386 (M+H)+.

reactant | N,N-dibenzyl-3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine | 5.30 mmol, 3.0 g | C(C1=CC=CC=C1)N(C1CC(C(C1)C1=CN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)C)CC1=CC=CC=C1 | C34H43N5OSi
reactant | hydrogen | [H][H] | H2
solvent | trifluoroethanol | 200 mL | C(C(F)(F)F)O | C2H3F3O
catalyst | palladium hydroxide on carbon | 4.27 mmol, 0.6 g | [OH-].[OH-].[Pd+2]
product | 3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine | 2.0 g, 98% yield | CC1CC(CC1C1=CN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)N | C20H31N5OSi
